US04950369
360 g of water and 0.5 g of concentrated sulfuric acid are initially taken, and 120 g of 1,2,3,4-tetrahydro-2-hydroxy-7-dimethoxymethyl-1,1,4,4-tetramethylnaphthalene are added. The mixture is then heated to the reflux temperature and the methanol is distilled off. The organic phase is taken up with methyl tert-butyl ether. The methyl tert-butyl ether phase is separated off, the methyl tert-butyl ether is distilled off and the residue is crystallized using petroleum ether/toluene. 89 g of 7-formyl-1,2,3,4-tetrahydro-2-hydroxy-1,1,4,4-tetramethylnaphthalene (mp. 76°-78° C.) are obtained. The product obtained was characterized by 1H-NMR. 1H-NMR (250 MHz, CDCl3): δ=1.23(s,3H), 1.37(s,3H), 1.41(s,3H), 1.50(s,1H), 1.83(dd, J1 =12Hz, J2 =4Hz,1H), 1.97(t,J=12Hz,1H), 2.83(sbr.,1H), 3.95(dd,J1 =12Hz, J2 =4Hz,1H), 7.52(d,J=8Hz, 1H), 7.73(d,J=8Hz,1H), 7.97 (s,1H), 10.03(s,1H)

reactant | 1,2,3,4-tetrahydro-2-hydroxy-7-dimethoxymethyl-1,1,4,4-tetramethylnaphthalene | 120 g | OC1C(C2=CC(=CC=C2C(C1)(C)C)C(OC)OC)(C)C | C17H26O3
catalyst | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 360 g | O | H2O
product | 7-formyl-1,2,3,4-tetrahydro-2-hydroxy-1,1,4,4-tetramethylnaphthalene | 89 g, yield was 88.9% | C(=O)C1=CC=C2C(CC(C(C2=C1)(C)C)O)(C)C | C15H20O2
